US04892875
A mixture of m-trifluoromethylbenzaldehyde, 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate and methyl 3-aminocrotonate was worked up in isopropyl alcohol in the same manner as Example 1 to give 2-(4-benzhydryl-1-piperazinyl)ethyl methyl 2,6-dimethyl-4-(3-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylate as a light yellow powder, m.p. 70°-72° C. Yield 52.5%. The product was further treated with methanolic hydrogen chloride and recrystallized from methanolethyl ether to give the dihydrochloride as colorless crystals, m.p. 168°-170° C.

reactant | m-trifluoromethylbenzaldehyde | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
reactant | 2-(4-benzhydryl-1-piperazinyl)ethyl acetoacetate | C(CC(=O)C)(=O)OCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H28N2O3
reactant | methyl 3-aminocrotonate | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-(4-benzhydryl-1-piperazinyl)ethyl methyl 2,6-dimethyl-4-(3-trifluoromethylphenyl)-1,4-dihydropyridine-3,5-dicarboxylate | Yield 52.5% | CC=1NC(=C(C(C1C(=O)OCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC(=CC=C1)C(F)(F)F)C(=O)OC)C | C36H38F3N3O4
